US06288120B1
5-(3-{[3-(3-Bromo-phenyl)-propyl]-amino}-propyl)-thiophene2-carboxylic acid tert-butyl ester.
The title compound was prepared from 5-(3-amino-propyl)-thiophene-2-carboxylic acid tert-butyl ester hydrochloride and 3-(3-bromo-phenyl)-propionaldehyde following the method described in Step A of Example 141. 1H NMR (400 MHz, CDCl3) δ 7.50 (d, 1H), 7.28-7.30 (m, 2H), 7.06-7.14 (m, 2H), 6.75 (d, 1H), 2.85 (t, 2H), 2.65-2.78 (m, 4H), 2.60 (t, 2H), 1.92-2.04 (m, 4H), 1.52-1.54 (m, 9H); MS 438 (M+).

reactant | 5-(3-amino-propyl)-thiophene-2-carboxylic acid tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(=O)C=1SC(=CC1)CCCN
reactant | 3-(3-bromo-phenyl)-propionaldehyde | BrC=1C=C(C=CC1)CCC=O | C9H9BrO
product | 5-(3-{[3-(3-Bromo-phenyl)-propyl]-amino}-propyl)-thiophene2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1SC(=CC1)CCCNCCCC1=CC(=CC=C1)Br | C21H28BrNO2S
